* the consistently-spelled twin of udf-name-case.cir, under casemode=preserve
* Every call here is spelled the way the function was defined, so this deck
* resolved before doc/codex/issues/0020 gap 2 was fixed and resolves after.
* It is what says its twin's assertions are about the case of the call and
* not about the circuit, the analysis or the arithmetic.
.OPTIONS noacct
V1 1 0 ac 1
R1 1 2 1k
C1 2 0 1u
.control
ac lin 1 100 100
print vm(2)
print vm(2)
print vdb(2)
print vdb(2)
print vp(2)
print vp(2)
* a define of the user's own, called back in the case it was defined with
define ff(x) x*3
print ff(2)
print ff(2)
* a formal parameter spelled the same way in the body, which substituted
* before the fix and after it
define hh(x) x*2
print hh(5)
* undefine resolves the name the same way, so gg is gone after it and the
* second print of gg(2) has no line of its own
define gg(x) x*5
print gg(2)
undefine gg
print gg(2)
* a define spelled the same way replaces the shipped vm, which it always did
define vm(x) x*7
print vm(1)
define vm
.endc
.end
